US09447035B2
To solution of sodium borohydride (0.29 g, 7.62 mmol, 2 eq.) in THF (5 ml) was added TFA (566 μL, 7.62 mmol, 2 eq.), the reaction was stirred for 10 min., and then a solution of (S)-2-(4-cyano-2,6-difluoro-benzoylamino)-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl)-phenyl]-propionic acid propyl ester (2.0 g, 3.81 mmol) in THF (6 ml) was added drop wise (flask was rinsed w/THF (2×1 ml) and added to reaction). The reaction was stirred at room temperature under nitrogen for 1.3 h. The reaction mixture was cooled in an ice bath and quenched with water (20 ml) and a sodium chloride solution (20 ml water, 100 ml saturated solution). The aqueous mixture was extracted with DCM (2×200 ml), and then the organic layers were washed with brine, combined, and dried over magnesium sulfate, and then concentrated to yield an off white solid, 1.77 g. The crude product was suspended in isopropyl acetate (75 ml) and isopropyl alcohol (0.75 ml and TMSC1 (1 ml) was added dropwise. The reaction was stirred at room temperature for 2 h and the white precipitate was filtered and washed with isopropyl acetate and hexanes to obtain 1.5 g (63% yield) of (S)-2-(4-aminomethyl-2,6-difluorobenzoylamino)-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester as an amorphous white solid. ES-HRMS m/e calcd for C27H30F2N4O5 (M+H)+ 529.2257, found 529.2258.

reactant | sodium borohydride | 7.62 mmol, 0.29 g, 2 eq. | [BH4-].[Na+]
reactant | TFA | 7.62 mmol, 566 μL, 2 eq. | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (S)-2-(4-cyano-2,6-difluoro-benzoylamino)-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl)-phenyl]-propionic acid propyl ester | 3.81 mmol, 2.0 g | C(CC)OC([C@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)NC(C1=C(C=C(C=C1F)C#N)F)=O)=O | C27H26F2N4O5
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | isopropyl acetate | 75 ml | C(C)(=O)OC(C)C | C5H10O2
product | (S)-2-(4-aminomethyl-2,6-difluorobenzoylamino)-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester | 1.5 g, 63% yield | C(CC)OC([C@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)NC(C1=C(C=C(C=C1F)CN)F)=O)=O | C27H30F2N4O5
